US07507740B2
(ii) Production of ethyl 5-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-2-furoate
To a solution of ethyl 5-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate (200 mg) in 1-methyl-2-pyrrolidone (1.3 mL) was added 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (247 mg), and the mixture was heated to 140° C. and stirred for 2 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (20 mL) and extracted with ethyl acetate (20 mL×3). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:ethyl acetate/methanol=10/0→8/2). The object fraction was concentrated under reduced pressure and dried to give the title compound (307 mg) as a pale-yellow solid.

reactant | ethyl 5-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate | 200 mg | ClC=1C2=C(N=CN1)C=CN2CC2=CC=C(O2)C(=O)OCC | C14H12ClN3O3
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 247 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 1.3 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
product | ethyl 5-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}-2-furoate | 307 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(O2)C(=O)OCC | C27H22ClFN4O4
